US04889858
To a solution of 1.5 g of sodium metal in 100 ml of ethanol are added 8 g of 3-fluorophenol and 17 g of ethyl 5-fluoro-2-bromomethylbenzoate [U.S. Pat. No. 4,082,850]and the mixture is refluxed with heating for 8 hours. After cooling, 300 ml of water is added and the mixture is extracted with toluene. The extract is washed with water and a saturated saline solution and dried over magnesium sulfate. The solvent is distilled off under reduced pressure to give 20 g of ethyl 5-fluoro-2-[(3-fluorophenyl oxy)methyl]benzoate (oil). Mass spectrum m/z: 292(M+).

reactant | sodium | 1.5 g | [Na] | Na
reactant | 3-fluorophenol | 8 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | ethyl 5-fluoro-2-bromomethylbenzoate | 17 g | FC=1C=CC(=C(C(=O)OCC)C1)CBr | C10H10BrFO2
reactant | water | 300 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 5-fluoro-2-[(3-fluorophenyl oxy)methyl]benzoate | 20 g | FC=1C=CC(=C(C(=O)OCC)C1)COC1=CC(=CC=C1)F | C16H14F2O3
